US06043254
1-acetyl-5-nitro-2-indolinone
Prepared by reacting 1-acetyl-2-indolinone in concentrated sulphuric acid (5.7 ml/g) at -10° C. with 1.1 equivalents of ammonium nitrate which is added in batches with stirring. After the addition has ended the mixture is stirred for a further 15 minutes, poured onto ice water, the precipitate is filtered off, washed with water and dissolved in ethylacetate. The organic phase is extracted with water, dried, filtered and evaporated down in vacuo. The evaporation residue is stirred with petroleum ether.

reactant | 1-acetyl-2-indolinone | C(C)(=O)N1C(CC2=CC=CC=C12)=O | C10H9NO2
reactant | ammonium nitrate | 1.1 equivalents | [N+](=O)([O-])[O-].[NH4+]
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-acetyl-5-nitro-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)[N+](=O)[O-])=O | C10H8N2O4
